US07238716B2
To a mixture of methyl 2-[2-[[3-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]-5-isoxazolyl]methoxy]phenyl]acetate (0.44 g), tetrahydrofuran (3 mL) and methanol (3 mL) was added a 1N aqueous sodium hydroxide solution (3 mL) and the mixture was stirred at 50° C. for 1 hr. 1N Hydrochloric acid (3 mL) and water were added to the reaction mixture, and the precipitated crystals were collected by filtration and dried with air to give crystals (0.40 g, 93%) of 2-[2-[[3-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]-5-isoxazolyl]methoxy]phenyl]acetic acid. Recrystallization from ethyl acetate-hexane gave colorless needle crystals. melting point: 147-148° C.

reactant | methyl 2-[2-[[3-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]-5-isoxazolyl]methoxy]phenyl]acetate | 0.44 g | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=NOC(=C1)COC1=C(C=CC=C1)CC(=O)OC | C24H22N2O5S
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 3 mL | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 2-[2-[[3-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]-5-isoxazolyl]methoxy]phenyl]acetic acid | 0.40 g, 93% | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=NOC(=C1)COC1=C(C=CC=C1)CC(=O)O | C23H20N2O5S
